US05798354
(d) Synthesis of 2,4-dihexyloxy-5-(1-adamantyl)phenylacetylene
3 g (5 mmol) of 2',2'-dibromo-2,4-dihexyloxy-5-(1-adamantyl)styrene and 50 ml of THF were introduced into a three-necked flask under a stream of nitrogen. 4 ml (10 mmol) of an n-butyllithium solution (2.5M in hexane) were added dropwise at -78° C. and the temperature was permitted to increase to room temperature for one hour. The reaction mixture was poured into water and extracted with ethyl ether and the organic phase was separated by settling, dried over magnesium sulfate and evaporated.

reactant | 2',2'-dibromo-2,4-dihexyloxy-5-(1-adamantyl)styrene | 5 mmol, 3 g | BrC(COC1=CC(=C(C=C)C=C1C12CC3CC(CC(C1)C3)C2)OCCCCCC)(CCCC)Br | C30H44Br2O2
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | n-butyllithium | 10 mmol, 2.5M, 4 ml | C(CCC)[Li]
solvent | water | O | H2O
product | 2,4-dihexyloxy-5-(1-adamantyl)phenylacetylene | C(CCCCC)OC1=C(C=C(C(=C1)OCCCCCC)C12CC3CC(CC(C1)C3)C2)C#C | C30H44O2
